US05928999
4-Chloro-3-[4-chloro-3-(4,4-diethoxy-3-oxobut-1-en1-yl)phenyl]-5-difluoromethoxy-1-methyl-1H-pyrazole (No. Ia.222)
5.1 g of (3,3-diethoxy-2-oxopropylidene)(triphenyl)phosphorane were added to a solution of 2 g (6.2 mmol) of 4-chloro-3-(4-chloro-3-formylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole in 20 ml of dimethylformamide, and the mixture was hen heated at 80-90° C. for 5 hours. The mixture was then concentrated and the crude product thus obtained was purified by chromatography on silica gel (eluent: hexane/ethyl acetate=4:1). Yield: 2.1 g.

reactant | (3,3-diethoxy-2-oxopropylidene)(triphenyl)phosphorane | 5.1 g | C(C)OC(C(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)OCC | C25H27O3P
reactant | 4-chloro-3-(4-chloro-3-formylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | 6.2 mmol, 2 g | ClC=1C(=NN(C1OC(F)F)C)C1=CC(=C(C=C1)Cl)C=O | C12H8Cl2F2N2O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-Chloro-3-[4-chloro-3-(4,4-diethoxy-3-oxobut-1-en1-yl)phenyl]-5-difluoromethoxy-1-methyl-1H-pyrazole | ClC=1C(=NN(C1OC(F)F)C)C1=CC(=C(C=C1)Cl)C=CC(C(OCC)OCC)=O | C19H20Cl2F2N2O4
